US07420001B2
To 240 mg of (S)-2-{4′-[(4-furan-3-yl-3-methyl-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-3-methyl-butyric acid methyl ester was added 2 mL of THF and 4 mL of LiOH solution (3.6 g LiOH/50 mL MeOH/50 mL H2O). The mixture was stirred at room temperature for 4 days. The solvents were removed under vacuum and the residue was dissolved in 5 mL of water. The solution was acidified to pH2 and the resulting suspension was filtered. The solid product was dried under vacuum to give 171 mg of (S)-2-{4′-[(4-furan-3-yl-3-methyl-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-3-methyl-butyric acid was obtained as white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.8 (dd, J=13.1, 6.8 Hz, 6 H) 2.4 (s, 3 H) 3.5 (m, 1 H) 6.8 (dd, J=1.9, 0.9 Hz, 1 H) 7.2 (dd, J=7.3, 1.0 Hz, 1 H) 7.5 (dd, J=7.6 Hz, 1 H) 7.7 (dd, J=8.5, 0.9 Hz, 1 H) 7.8 (d, J=8.8 Hz, 2 H) 7.8 (m, 4 H) 7.9 (m, 2 H) 7.9 (dd, J=1.5, 0.8 Hz, 1 H) 8.0 (m, 3 H) 10.6 (s, 1 H) 12.6 (s, 1 H).

reactant | (S)-2-{4′-[(4-furan-3-yl-3-methyl-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-3-methyl-butyric acid methyl ester | 240 mg | COC([C@H](C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)C=1OC2=C(C1C)C(=CC=C2)C2=COC=C2)=O | C32H30N2O7S
reactant | LiOH | 4 mL, 3.6 g | [Li+].[OH-]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (S)-2-{4′-[(4-furan-3-yl-3-methyl-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-3-methyl-butyric acid | 171 mg | O1C=C(C=C1)C1=CC=CC2=C1C(=C(O2)C(=O)NC2=CC=C(C=C2)C2=CC=C(C=C2)S(=O)(=O)N[C@H](C(=O)O)C(C)C)C | C31H28N2O7S
